US04053600
A mixture of 10.0 g. of 5-chloro-8,9-dimethoxy-1,2,4-triazolo[4,3-c]quinazoline, 38.8 g. of morpholine and 100 ml. of ethanol is refluxed for 1.5 hours and the resulting mixture evaporated in vacuo to dryness. The residue is taken up with ethanol and diethyl ether and filtered. The resulting solid is then recrystallized from benzene, filtered, washed with diethyl ether, recrystallized from ethanol and dried in a high vacuum to obtain 5-morpholino-8,9-dimethoxy-1,2,4-triazolo[4,3-c]quinazoline, m.p. 216°-218° C.

reactant | 5-chloro-8,9-dimethoxy-1,2,4-triazolo[4,3-c]quinazoline | ClC1=NC=2C=C(C(=CC2C=2N1C=NN2)OC)OC | C11H9ClN4O2
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | ethanol | C(C)O | C2H6O
product | 5-morpholino-8,9-dimethoxy-1,2,4-triazolo[4,3-c]quinazoline | O1CCN(CC1)C1=NC=2C=C(C(=CC2C=2N1C=NN2)OC)OC | C15H17N5O3
